US06232310B1
b) 3,7-Dimethyl-4H-thieno[3,2-b]-1,4-thiazine-2-carbonitrile 1,1-dioxide
A solution of (2-amino-4-methylthiophene-3-sulfonyl)acetonitrile (0.50 g) in trimethyl orthoacetate (1 ml) was heated at 120-130° C. for 2 h and then concentrated in vacuo at ˜50° C. for 1 h. The residue was suspended in a mixture of absolute ethanol (5 ml) and triethylamine (0.32 ml) and stirred at reflux for ½ h, then at 0° C. for ½ h and filtered. The filtrate was heated at reflux for one more hour, concentrated in vacuo, dissolved in ethyl acetate (10 ml) and extracted with 1 M NaOH (10 ml). The aqueous phase was washed with ethyl acetate (2×5 ml), cooled to 0° C. and acidified with 10 M HCl, pH being adjusted to 0-1. After stirring for 1 h at 0° C. the precipitate was collected by filtration and dried to give the title compound as a practically pure beige solid. Yield 0.09 g (16%). An analytically pure sample was obtained by recrystallization from methanol; mp 347-349° C. (decomp.); 1H-NMR(DMSO-d6) δ (ppm): 12.7 (br, 1H), 7.09 (s, 1H), 2.40 (s, 3H), 2.32 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 153.9, 143.5, 131.5, 119.6, 116.6, 113.8, 89.6, 20.4, 15.3; IR 3226, 3030, 2903, 2227(C≡N), 1580, 1526, 1281 and 1134 (SO2). Elemental analysis, % found (calc. for C9H8N2O2S2): C 44.69 (44.98); H 3.22 (3.36); N 11.33 (11.66); S 26.76 (26.69).

reactant | (2-amino-4-methylthiophene-3-sulfonyl)acetonitrile | 0.50 g | NC=1SC=C(C1S(=O)(=O)CC#N)C | C7H8N2O2S2
reactant | trimethyl orthoacetate | 1 ml | C(C)(OC)(OC)OC | C5H12O3
product | 3,7-Dimethyl-4H-thieno[3,2-b]-1,4-thiazine-2-carbonitrile 1,1-dioxide | CC=1NC2=C(S(C1C#N)(=O)=O)C(=CS2)C | C9H8N2O2S2
